US05175157
3-[(N-(2-(4-Amino-3,5-dichloro-phenyl)-ethyl)-piperidin-3-yl)-methyl]-7,8-dimethoxy-1,3,4, 5-tetrahydro-2H-3-benzazepin-2-one-hydrochloride
Prepared from 3-[(piperidin-3-yl)-methyl]-7,8-dimethoxy1,3,4,5-tetrahydro-2H-3-benzazepin-2-one and 2-(4-amino-3,5-dichloro-phenyl)-ethylbromide analogously to Example 1.

reactant | 3-[(piperidin-3-yl)-methyl]-7,8-dimethoxy1,3,4,5-tetrahydro-2H-3-benzazepin-2-one | N1CC(CCC1)CN1CCC2=C(CC1=O)C=C(C(=C2)OC)OC | C18H26N2O3
reactant | 2-(4-amino-3,5-dichloro-phenyl)-ethylbromide | NC1=C(C=C(C=C1Cl)CCBr)Cl | C8H8BrCl2N
product | 3-[(N-(2-(4-Amino-3,5-dichloro-phenyl)-ethyl)-piperidin-3-yl)-methyl]-7,8-dimethoxy-1,3,4, 5-tetrahydro-2H-3-benzazepin-2-one-hydrochloride | Cl.NC1=C(C=C(C=C1Cl)CCN1CC(CCC1)CN1CCC2=C(CC1=O)C=C(C(=C2)OC)OC)Cl | InChI=1S/C26H33Cl2N3O3.ClH/c1-33-23-12-19-6-9-31(25(32)14-20(19)13-24(23)34-2)16-18-4-3-7-30(15-18)8-5-17-10-21(27)26(29)22(28)11-17;/h10-13,18H,3-9,14-16,29H2,1-2H3;1H
